US07084277B2
4-Methyl-piperidine-1-carboxylic acid methyl ester
To a three neck round bottom flask was added 360 g of 4-methylpiperdine, 470 mL of triethylamine, and 390 mL of methylene chloride and the mixture was cooled in an ice bath. To this mixture was added methylchloroformate (260 mL) in methylene chloride (215 mL) slowly to maintain a reaction temperature of 20 C or below. The reaction was stirred overnight, then 200 mL of water was added and the layers were separated. The organic layer was washed with dilute HCl, satd. NaHCO3, and brine, and then the organic layer was dried over sodium sulfate and the solvent was removed in vacuo. The product was distilled at 90-93 C at ˜10 mm pressure to provide 338 g of product.

reactant | 4-methylpiperdine | 360 g | CC1CCNCC1 | C6H13N
reactant | triethylamine | 470 mL | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 260 mL | COC(=O)Cl | C2H3ClO2
reactant | water | 200 mL | O | H2O
solvent | methylene chloride | 215 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 390 mL | C(Cl)Cl | CH2Cl2
product | 4-Methyl-piperidine-1-carboxylic acid methyl ester | 338 g | COC(=O)N1CCC(CC1)C | C8H15NO2
